US06514975B1
4-(4,5-Dihydro-4,4-dimethyl-2-oxazolyl)-benzaldehyde
n-Butyl lithium (9.44 ml, 2.5N solution in hexanes) was added to a solution of 2-(4-bromophenyl)-4,5-dihydro-4,4-dimethyl-oxazole [A. I. Meyers et al., J.O.C., 1974, 39, 2787] (5 g) in tetrahydrofuran (80 ml) at −78° C. The reddish solution was stirred at −78° C. for 15 minutes before dimethylformamide (2.3 g) was added dropwise. The resulting deep red solution was allowed to warm to room temperature, quenched with ammonium chloride solution and extracted into ether. The combined extracts were washed with brine, dried (sodium sulphate) and evaporated to dryness in vacuo. The residue was purified by column chromatography (30% ethyl acetate/hexane) to afford the title compound as a colourless liquid, 3.01 g.

reactant | n-Butyl lithium | 2.5N, 9.44 ml | C(CCC)[Li]
reactant | 2-(4-bromophenyl)-4,5-dihydro-4,4-dimethyl-oxazole | BrC1=CC=C(C=C1)C=1OCC(N1)(C)C | C11H12BrNO
reactant | dimethylformamide | 2.3 g | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4-(4,5-Dihydro-4,4-dimethyl-2-oxazolyl)-benzaldehyde | CC1(N=C(OC1)C1=CC=C(C=O)C=C1)C | C12H13NO2
